US07820680B2
Step 6: Methyl N-{1-{[(tert-butoxycarbonyl)(4-fluorobenzyl)amino]methyl}-3-[methoxy(methyl)amino]propyl}glycinate
A mixture of glycine methyl ester (2.78 g, 22.1 mmol) in anhydrous THF (13.5 mL) was treated with triethylamine (3.03 mL, 21.6 mmol), tert-butyl 4-fluorobenzyl{4-[methoxy(methyl)amino]-2-oxobutyl}carbamate (1.50 g, 4.23 mmol) in anhydrous THF (8.5 mL), sodium triacetoxyborohydride (5.11 g, 24.1 mmol), and acetic acid (485 μL, 8.46 mmol). The mixture was stirred at ambient temperature under inert atmosphere for 42 h. Saturated aqueous NaHCO3 solution was added and the mixture was stirred until gas evolution ceased. The mixture was extracted into EtOAc, and the aqueous layer was saturated with NaCl and extracted into EtOAc again. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated in vacuo to a pale yellow oil. Purification by silica gel chromatography using gradient elution (hexanes to 40% EtOAc/hexanes to EtOAc) afforded the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.19 (br s, 2H), 7.02-6.98 (m, 2H), 4.56-4.37 (m, 2H), 3.72 (s, 3H), 3.49 (s, 3H), 3.39 (br s, 2H), 3.05 (br s, 1H), 2.97 (br s, 1H), 2.66 (br s, 2H), 2.55 (s, 3H), 1.68-158 (m, 4H), 1.47 (br s, 9H). ES MS (M+1)=428.4.

reactant | glycine methyl ester | 22.1 mmol, 2.78 g | COC(CN)=O | C3H7NO2
reactant | triethylamine | 21.6 mmol, 3.03 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-fluorobenzyl{4-[methoxy(methyl)amino]-2-oxobutyl}carbamate | 4.23 mmol, 1.50 g | FC1=CC=C(CN(C(OC(C)(C)C)=O)CC(CCN(C)OC)=O)C=C1 | C18H27FN2O4
reactant | sodium triacetoxyborohydride | 24.1 mmol, 5.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 8.46 mmol, 485 μL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 13.5 mL | C1CCOC1 | C4H8O
solvent | THF | 8.5 mL | C1CCOC1 | C4H8O
product | Methyl N-{1-{[(tert-butoxycarbonyl)(4-fluorobenzyl)amino]methyl}-3-[methoxy(methyl)amino]propyl}glycinate | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)F)CC(CCN(C)OC)NCC(=O)OC | C21H34FN3O5
